US07011838B2
Using 10.0 g of (2-chloro-4-fluorobenzyliden)malononitrile, 200 ml of ethanol and 0.6 g of sodium borohydride, and according to the process described in the REFERENCE PRODUCTION EXAMPLE 3, there was obtained 0.55 g of (2-chloro-4-fluorobenzyl)malononitrile (the intermediate (24)).

reactant | (2-chloro-4-fluorobenzyliden)malononitrile | 10.0 g | ClC1=C(C=C(C#N)C#N)C=CC(=C1)F | C10H4ClFN2
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (2-chloro-4-fluorobenzyl)malononitrile | 0.55 g, Yield: 53% | ClC1=C(CC(C#N)C#N)C=CC(=C1)F | C10H6ClFN2
